US04087421
Preparation of 6-Methylsulfonyl-10-(1-piperazinyl)-4H-thieno[3,4-b][1,5]benzodiazepine
A solution of 6-methylsulfonyl-10-(methylthio)-4H-thieno[3,4-b][1,5]benzodiazepine in excess piperazine and glacial acetic acid is heated in a bomb at 150° C. for 2 days. The solution is poured into water and the product is collected.

reactant | 6-methylsulfonyl-10-(methylthio)-4H-thieno[3,4-b][1,5]benzodiazepine | CS(=O)(=O)C1=CC2=C(N=C(C=3C(N2)=CSC3)SC)C=C1 | C13H12N2O2S3
reactant | water | O | H2O
reactant | piperazine | N1CCNCC1 | C4H10N2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Methylsulfonyl-10-(1-piperazinyl)-4H-thieno[3,4-b][1,5]benzodiazepine | CS(=O)(=O)C1=CC2=C(N=C(C=3C(N2)=CSC3)N3CCNCC3)C=C1 | C16H18N4O2S2
